US08247576B2
12C. 3-(4-Chloro-phenyl)-3-[4-(1H-pyrazol-4-yl)-phenyl]-propylamine
3-(4-Bromo-phenyl)-3-(4-chloro-phenyl)-propylamine was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole following the procedure set out in Example 1 to give the title compound. LC/MS: (PS-B3) Rt 2.54 [M+H]+ 312.04. 1H NMR (Me-d3-OD) δ 2.39 (2H, m), 2.84 (2H, t), 4.06 (1H, t), 7.27-7.33 (6H, m), 7.54 (2H, d), 7.91 (2H, s).

reactant | 3-(4-Bromo-phenyl)-3-(4-chloro-phenyl)-propylamine | BrC1=CC=C(C=C1)C(CCN)C1=CC=C(C=C1)Cl | C15H15BrClN
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
product | 3-(4-Chloro-phenyl)-3-[4-(1H-pyrazol-4-yl)-phenyl]-propylamine | ClC1=CC=C(C=C1)C(CCN)C1=CC=C(C=C1)C=1C=NNC1 | C18H18ClN3
